US06620811B2
2-(Benzyl-methyl-amino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and N-methylbenzylamine. ES-MS m/e (%): 490 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylbenzylamine | CNCC1=CC=CC=C1 | C8H11N
product | 2-(Benzyl-methyl-amino)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | C(C1=CC=CC=C1)N(C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1)C | C26H27N5O3S
